Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
=================
___ 10:54PM BLOOD WBC-14.3* RBC-4.32 Hgb-12.5 Hct-40.0 
MCV-93 MCH-28.9 MCHC-31.3* RDW-12.4 RDWSD-42.4 Plt ___
___ 10:54PM BLOOD Neuts-80.2* Lymphs-12.5* Monos-6.3 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-11.45* AbsLymp-1.79 
AbsMono-0.90* AbsEos-0.02* AbsBaso-0.05
___ 10:54PM BLOOD ___ PTT-25.8 ___
___ 10:54PM BLOOD Glucose-147* UreaN-16 Creat-0.7 Na-135 
K-4.4 Cl-101 HCO3-23 AnGap-11
___ 10:54PM BLOOD TSH-1.7

DISCHARGE LABS
==============
___ 06:00AM BLOOD WBC-8.2 RBC-4.51 Hgb-13.1 Hct-40.9 MCV-91 
MCH-29.0 MCHC-32.0 RDW-12.5 RDWSD-41.1 Plt ___
___ 06:00AM BLOOD ___ PTT-25.4 ___
___ 06:00AM BLOOD Glucose-171* UreaN-13 Creat-0.6 Na-139 
K-3.8 Cl-102 HCO3-24 AnGap-13
___ 06:00AM BLOOD ALT-17 AST-19 AlkPhos-76 TotBili-0.8
___ 06:00AM BLOOD Calcium-9.0 Phos-3.0 Mg-2.1

REPORTS
==========
___ CT HEAD
IMPRESSION:  
  
Acute on chronic left frontal subdural hematoma with mild 
effacement of the 
left lateral ventricle and 2 mm of midline shift, new from MR 
brain performed 
6 hours prior.  No evidence of subfalcine, uncal, or tonsillar 
herniation. 
Small right inferior frontal extra-axial collection is better 
seen on the 
previous MRI but grossly stable. 

___ EEG
24-HOUR IMPRESSION: This is an abnormal continuous video-EEG 
monitoring study due to intermittent focal delta/theta slowing 
over the temporal region bilaterally (left>right), indicative of 
left greater than right bitemporal 
focal cerebral dysfunction. There are no clinical events. There 
are no 
electrographic seizures or epileptiform discharges. 

___ CT Head
IMPRESSION: 
1. Expected interval evolution of acute on chronic left frontal 
subdural 
hematoma, overall similar in size compared to most recent prior 
study when 
accounting for differences in patient positioning and 
measurement technique. 
2. Stable 2 mm of rightward midline shift. 
3. Stable small right frontal extra-axial collection, better 
assessed on prior 
MRI from ___ but overall grossly unchanged. 

___ CT Head
IMPRESSION:   
1.  No substantial interval change of left and right frontal 
subdural 
collections with minimal mass effect. 
2.  No evidence of territorial infarction or new hemorrhagic 
focus. 

MICROBIOLOGY
===========
___ 10:54 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      BETA STREPTOCOCCUS GROUP B.    >100,000 CFU/mL. 

 
Brief Hospital Course:
PATIENT SUMMARY
=================
___ is an ___ year old female with a history of 
dementia, prior vestibular schwannoma s/p resection in ___ 
with residual left-sided decreased sensation of her face and 
facial droop, who presented after multiple falls and reports of 
altered mental status. She was found to have acute-on-chronic 
bilateral subdural hematomas, and was evaluated by neurosurgery, 
who did not find any indication for surgical intervention. She 
was also evaluated by neurology, who felt that her altered 
mental status was likely secondary to her recent head trauma, 
her likely underlying dementia of unknown etiology, and a 
urinary tract infection. Her UTI was treated with IV 
antibiotics, and her neurology exam was followed closely, with 
significant improvement over the course of her hospitalization. 
EEG was negative for seizure. She was discharged to ___ 
rehab, where she will continue to recover from her recent head 
injury, and will require outpatient neurology follow-up in 
several weeks times regarding the etiology of her underlying 
progressive dementia, which thus far remains incompletely 
characterized. 

TRANSITIONAL ISSUES
===================
[] Patient has a history of multiple falls in the last ___ years. 
Acute on chronic subdurals noted bilaterally, indicating 
multiple traumatic brain injuries. She will need in-depth 
neurologic workup as an outpatient, once the sequelae of her 
recent brain injury have improved, to assess for the etiology of 
her frequent falls ___ years) and gradual progressive cognitive 
decline ___ years).
[] Neurosurgery recommends follow up in 2 weeks in ___ 
clinic with repeat head CT at that time
[] Patient was discharged on a modified diet of soft 
consistency, with pills crushed in puree, and 1:1 supervision. 
Please continue to monitor her ability to take medications and 
food by mouth, and advance as tolerated. 
[] Her 81mg aspirin was held in the setting of brain bleed; it 
is unclear why she was taking this medication. Her PCP should 
consider whether there is a clear indication for aspirin; this 
was NOT restarted upon discharge.
[] She will require 1 additional day of antibiotics for UTI, for 
a total 5 day course. She will take cephalexin 500mg BID on 
___. 

# CODE: DNR/DNI (confirmed with HCP daughter) 
# CONTACT: ___ 
 Relationship: daughter (___) 
 Cell phone: ___ 

ACUTE ISSUES: 
============= 
#Falls
#Cognitive Decline
#Altered Mental Status
Patient presents with a history of numerous falls over the last 
year, and particularly within the last 2 months, associated with 
progressive cognitive decline. MRI this admission demonstrating 
likely acute on chronic bilateral SDH, likely secondary to 
multiple falls, although per neurosurgery this is likely not 
enough to explain for her altered mental status. On 
presentation, she was oriented only to self, and was 
intermittently confused, agitated, perseverative, and unable to 
tolerate anything by mouth. It is likely that she is undergoing 
a progressive dementia as well as a more acute insult that 
corresponds to her rapid decline over the last 2 months, with 
contribution from TBI and from UTI diagnosed on admission. It is 
also possible she has some residual vestibular issues related to 
her schwannoma resection, although this is difficult to 
ascertain fully while she is recovering from her TBI. A repeat 
head CT x2 was negative for bleed progression. Her mental status 
improved over the course of several days, and she was cleared by 
SLP to take a soft diet and clear liquids with supervision. 

#Acute on Chronic Subdural Hematomas
Falls likely multifactorial secondary to progressive functional 
decline, see above. MRI demonstrating bilatral subdural 
hematomas, likely acute on chronic. CT ___ ___ showing 2mm 
midline shift, new from prior, concerning for evolution of 
bleed; however, repeat CT's were unchanged. Her systolic blood 
pressure was maintained <160 mmHg.

#UTI
U/A with evidence of infection, culture growing GBS. This was 
likely a contributor to her altered mental status. She was 
treated with 4 days IV ceftriaxone; she will be discharged with 
1 day of oral antibiotics (Keflex ___ PO BID) to complete a 5 
day course for UTI. 

CHRONIC ISSUES: 
=============== 
#HTN. She was continued on home amlodipine 5mg daily and 
Metoprolol succinate 25mg daily.
.
.
.
Time in care: >30 minutes in discharge-related activities today.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q12H UTI - last day tx Duration: 2 
Doses 
Start ___  
2.  amLODIPine 5 mg PO DAILY  
3.  Metoprolol Succinate XL 25 mg PO DAILY  
4. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until you see your PCP or cardiologist.

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
FINAL DIAGNOSIS
===============
Acute on Chronic Subdural Hematoma
Traumatic Brain Injury
Dementia
Dysphagia 

SECONDARY DIAGNOSES
====================
Vestibular Schwannoma s/p resection

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You came the hospital because you were having falls, and you 
were acting confused. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- A CAT scan of your brain showed some bleeding in your brain. 
There was evidence of both old blood and new blood, likely from 
hitting your head with multiple falls.
- An EEG showed that you were not having seizures.
- You were found to have a urinary tract infection, which was 
treated with antibiotics through an IV.
- Your mental status improved, and you were ready to leave the 
hospital and go to rehab.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.  
-You will take 1 more day of antibiotics for your UTI. You will 
take Keflex ___ twice per day on ___ to finish your 
antibiotic course. 

We wish you the best! 
 
Sincerely,  

Your ___ Team  
 
Followup Instructions:
___